US07612099B2
(R)-3-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one
Using general procedure D, (R)-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one (prepared according to Lit. 11, see also Lit. 19) was reacted with benzaldehyde and 5-fluoro-3-methyl-1H-indole to give the title compound as a pale yellow foam. MS: 425.4 ([M−H]−).

reactant | (R)-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one | OC1=CC(N[C@@]1(C1=CC=CC=C1)C)=O | C11H11NO2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-fluoro-3-methyl-1H-indole | FC=1C=C2C(=CNC2=CC1)C | C9H8FN
product | (R)-3-[(5-Fluoro-3-methyl-1H-indol-2-yl)-phenyl-methyl]-4-hydroxy-5-methyl-5-phenyl-1,5-dihydro-pyrrol-2-one | FC=1C=C2C(=C(NC2=CC1)C(C=1C(N[C@@](C1O)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1)C | C27H23FN2O2
